US06838463B2
In 30 ml of tetrahydrofuran was suspended 5.24 g of potassium t-butoxide, to which 2.63 g of phenylacetonitrile and 3.0 g of 4-chloro-6-methylthiopyrimidine, followed by stirring at 0° C. for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with ethyl acetate. The organic layers were combined and washed with a saturated aqueous sodium chloride solution, and the combined organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 3.67 g of 4-(α-cyanobenzyl)-6-methylthiopyrimidine.

reactant | potassium t-butoxide | 5.24 g | CC(C)([O-])C.[K+]
reactant | phenylacetonitrile | 2.63 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | 4-chloro-6-methylthiopyrimidine | 3.0 g | ClC1=NC=NC(=C1)SC | C5H5ClN2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(α-cyanobenzyl)-6-methylthiopyrimidine | 3.67 g | C(#N)C(C1=CC=CC=C1)C1=NC=NC(=C1)SC | C13H11N3S
